Lab3
* NGSPICE simulation script
* BJT amp with feedback
*

* supply voltage
.model Default D

Vs 1 0 ac 1.0 sin(10 1 50)

D1 1 2 Default

R1 2 0 10k



.control
set filetype=ascii run
op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

print v(1)-v(2)

*print Vcc
*print @Q1[ic]
*print @Rf[i]

*print all

*ac dec 10 10 1k
*print  (mean(v(1)-v(2)))
*print  (mean(i(Vs)))
*hardcopy DiodoAcI.ps i(Vs) 
*hardcopy DiodoAcV.ps v(1)-v(2) 

.endc



.end
